US07241887B2
3-(3-Aza-bicyclo[3.2.1]oct-8-yl)-phenol
8-(3-Methoxy-phenyl)-3-aza-bicyclo[3.2.1]octane (162 mg, 0.638 mmol) was dissolved in glacial HOAc (2 mL), charged with hydrobromic acid (48%, 2 mL), then heated to a gentle reflux overnight (or until judged complete by TLC). The reaction was carefully poured onto 1N NaOH (30 mL); pH 14 was achieved. The product was extracted with n-butanol/toluene (3/1, 6×6 mL), washed with saturated aqueous NaCl solution (1×10 mL), dried over Na2SO4, and concentrated to yield a yellow semi-solid. To this was added 2.5N HCl/EtOAc (4 mL), then azeotroped from MeOH (2×10 mL) to yield the title compound as a yellow solid (130 mg, 85%). (TLC 10% MeOH/CH2Cl2, (NH3) Rf 0.10); 1H NMR (400 MHz, CD3OD, HCl salt) δ 7.05 (t, J=7.9 Hz, 1H), 6.67 (d, J=7.9 Hz, 1H), 6.54 (s, 1H), 6.53 (dd, J=7.9, 2.3 Hz, 1H), 3.27 (ddd, J=3.3, 3.3, 1.7 Hz, 1H), 2.85 (d, J=12.9 Hz, 2H), 2.80 (dd, J=12.9, 3.1 Hz, 2H), 2.39 (br s, 2H), 1.67 (m, 2H), 1.57 (m, 2H); GCMS m/z 203 (M)+; LCMS m/z 204.3 (M+1)+.

reactant | 8-(3-Methoxy-phenyl)-3-aza-bicyclo[3.2.1]octane | 0.638 mmol, 162 mg | COC=1C=C(C=CC1)C1C2CNCC1CC2 | C14H19NO
reactant | hydrobromic acid | 2 mL | Br | BrH
reactant | NaOH | 1N, 30 mL | [OH-].[Na+]
reactant | HCl EtOAc | 2.5N, 4 mL | Cl.CCOC(=O)C
solvent | HOAc | 2 mL | CC(=O)O | C2H4O2
product | 3-(3-Aza-bicyclo[3.2.1]oct-8-yl)-phenol | 130 mg, 85% | C12CNCC(CC1)C2C=2C=C(C=CC2)O | C13H17NO
